US09023858B2
A) 7-chloro-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
1-Isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene (4.06 g) was dissolved in N,N-dimethylformamide (50 ml), and sodium hydride (60% in oil, 1.39 g) was added thereto under ice-cooling. Methyl 2-amino-6-chloropyridine-3-carboxylate (2.95 g) was dissolved in N,N-dimethylformamide (25 ml), the solution was added dropwise to the reaction mixture under ice-cooling, and the mixture was stirred for 20 min, and then at room temperature for 1 hr and 30 min. The reaction mixture was poured into 0.5M hydrochloric acid (80 ml), and the white precipitate was collected by filtration. The precipitate was dissolved in tetrahydrofuran (100 ml), and the solution was diluted with ethyl acetate (200 ml), washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a white residue. The residue was suspended in diethyl ether (100 ml), and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane), and washed with diethyl ether to give the white title compound (1.1 g).

reactant | 1-Isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene | 4.06 g | N(=C=S)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NOS
reactant | sodium hydride | 1.39 g | [H-].[Na+]
reactant | Methyl 2-amino-6-chloropyridine-3-carboxylate | 2.95 g | NC1=NC(=CC=C1C(=O)OC)Cl | C7H7ClN2O2
reactant | hydrochloric acid | 0.5M, 80 ml | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 7-chloro-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 1.1 g | ClC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C15H9ClF3N3O2S
